US04460782
250 g (1.86 mole) of malic acid are dissolved in 500 ml of acetic anhydride and a further 1 ml of concentrated sulphuric acid is added thereto. The mixture is then heated at 140° C. for four hours. Finally, it is concentrated in vacuo and the residue is fractionally distilled. 2-acetoxysuccinic acid anhydride is obtained in a 60% yield. Boiling point at 0.01 torr: 108° to 113° C.; melting point: 56° C.

reactant | malic acid | 1.86 mole, 250 g | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic anhydride | 500 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetoxysuccinic acid anhydride | 60% yield | C(C)(=O)OC1C(=O)OC(C1)=O | C6H6O5
